US04808729
Methyl 4-(mercaptomethyl)-2-methyl-1,3-dithiolane-2-butanoate
The title compound was prepared according to the procedure of Example 1 using 1,2,3-trimercaptopropane (5 g, 0.0355 mol), methyl 4-acetylbutyrate (5.1 g, 0.0355 mol) and boron trifluoride etherate (1 ml) in methylene chloride (125 ml). The crude product was chromatographed on silica gel using 5% ethyl acetate/hexane as eluent to give 6.5 g (69%) of product.

reactant | 1,2,3-trimercaptopropane | 0.0355 mol, 5 g | SCC(CS)S | C3H8S3
reactant | methyl 4-acetylbutyrate | 0.0355 mol, 5.1 g | C(C)(=O)CCCC(=O)OC | C7H12O3
reactant | boron trifluoride etherate | 1 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-(mercaptomethyl)-2-methyl-1,3-dithiolane-2-butanoate | SCC1SC(SC1)(CCCC(=O)OC)C | C10H18O2S3
